US06057369
To a solution of 2 g (6.02 mmol) of 3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutanoic acid in 50 mL of CH2Cl2 at 25° C. under argon is added 0.2 mL of DMF followed by 6.02 mL (12.03 mmol, 2 eq) of 2 M solution of oxalyl chloride in CH2Cl2. After stirring at 25° C. for 3 hours, the mixture is cooled to 0° C. and 3.7 mL (30.08 mmol, 5 eq) of O-trimethylsilylhydroxylamine is added. This mixture is then stirred at 25° C. for 18 hours. The reaction is partitioned between CH2Cl2 and 1 N HCl. The organic layer is dried over anhydrous Na2SO4 and concentrated in vacuo. The product is purificatied by flash silica gel chromatography to afford N-hydroxy-3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutyramide as a yellow crystalline solid. (1.7 g, 81%): 1H-NMR (300 MHz, DMSO-d6) δ (TMS) 2.2(m, 2H), 2.81 (m, 2H), 3.6(m, 1H), 3.75(s, 6H), 6.89-7 (m, 3H), 7.17-7.35(m, 5H), 8.85(s, 1H), 10.5(s, 1H).

reactant | 3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutanoic acid | 6.02 mmol, 2 g | COC=1C=C(C=CC1OC)SC(CC(=O)O)CC1=CC=CC=C1 | C18H20O4S
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-trimethylsilylhydroxylamine | 30.08 mmol, 3.7 mL, 5 eq | C[Si](ON)(C)C | C3H11NOSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutyramide | ONC(CC(CC1=CC=CC=C1)SC1=CC(=C(C=C1)OC)OC)=O | C18H21NO4S
